US08008497B2
6-[2-Methoxy-4-(pyridin-3-ylaminocarbonyloxy)phenyl]-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 4-1)
6-(4-Hydroxy-2-methoxyphenyl)-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-2, 31.0 mg, 0.0690 mmol) was dissolved in anhydrous methylene dichloride (1 mL), triethylamine (27 μL, 0.19 mmol) and 3-pyridyl isocyanate (17.0 mg, 0.142 mmol) were added thereto, and then the mixture was stirred at room temperature for 3 hours. The reaction mixture was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (21.8 mg) as a pale yellow amorphous product. (Yield 57%)

reactant | 6-(4-Hydroxy-2-methoxyphenyl)-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 0.0690 mmol, 31.0 mg | OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC(=O)C=1SC(=CC1)C)OC | C26H27NO4S
reactant | triethylamine | 0.19 mmol, 27 μL | C(C)N(CC)CC | C6H15N
reactant | 3-pyridyl isocyanate | 0.142 mmol, 17.0 mg | N1=CC(=CC=C1)N=C=O | C6H4N2O
solvent | methylene dichloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 6-[2-Methoxy-4-(pyridin-3-ylaminocarbonyloxy)phenyl]-5-(5-methylthiophen-2-ylcarbonyloxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 21.8 mg, Yield 57% | COC1=C(C=CC(=C1)OC(=O)NC=1C=NC=CC1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC(=O)C=1SC(=CC1)C | C32H31N3O5S
